US08222416B2
To a solution Raney-Ni (250 mL) in benzene (100 mL) was added a solution of 2-(1,4-dioxa-spiro[4.4]non-7-yl)-dithiomalonic acid di-S-ethyl ester (28.7 g, 90 mmol) in benzene (600 mL). The mixture was stirred for 16 h at room temperature under nitrogen. The mixture was filtered to remove Raney-Ni and the filtrate was concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 5% ethyl acetate/pentane) afforded 2-(1,4-dioxa-spiro[4.4]non-7-yl)-ethanol (7 g, 45%).

reactant | 2-(1,4-dioxa-spiro[4.4]non-7-yl)-dithiomalonic acid di-S-ethyl ester | 90 mmol, 28.7 g | C(C)SC(C(C(=O)SCC)C1CC2(OCCO2)CC1)=O | C14H22O4S2
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 600 mL | C1=CC=CC=C1 | C6H6
catalyst | Ni | 250 mL | [Ni] | Ni
product | 2-(1,4-dioxa-spiro[4.4]non-7-yl)-ethanol | 7 g, 45% | O1CCOC12CC(CC2)CCO | C9H16O3
